US04367234
5-(2-Chloro-6-methoxyphenyl)oxazolidine-2,4-dione
5-(2-Chloro-6-fluorophenyl)oxazolidine-2,4-dione (22 g., 0.096 mole) was taken into a mixture of dimethylsulfoxide (100 ml.) and methanol (31.5 ml.). Sodium methoxide (10.8 g., 0.2 mole) was added over about 4 minutes, during which time the temperature of the reaction mixture rose to 57° C. As a matter of convenience the reaction mixture was allowed to stand for 16 hours at room temperature before heating at 106° C. for 5 hours. After cooling to 65° C., the reaction mixture was quenched by pouring into 450 ml. of ice and water, treated with activated carbon, filtered, and made strongly acidic with conc. hydrochloric acid. The precipitated product was recovered by filtration and the wet cake slurried in 100 ml. of toluene. Water was removed by azotropic distillation in vacuo. The residual slurry was taken into solution by the addition of 100 ml. acetone and warming. After clarification, the acetone was removed by evaporation in vacuo (final volume 70 ml.). Filtration gave purified 5-(2-chloro-6-methoxyoxazolidine-2,4-dione (20.3 g., m.p. 199°-202° C.). A lower melting second crop (0.9 g.) was obtained from mother liquor.

reactant | 5-(2-Chloro-6-fluorophenyl)oxazolidine-2,4-dione | 0.096 mole, 22 g | ClC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C9H5ClFNO3
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | Sodium methoxide | 0.2 mole, 10.8 g | C[O-].[Na+]
solvent | methanol | 31.5 ml | CO | CH4O
product | 5-(2-Chloro-6-methoxyphenyl)oxazolidine-2,4-dione | ClC1=C(C(=CC=C1)OC)C1C(NC(O1)=O)=O | C10H8ClNO4
